US07229998B2
{5-Hydroxymethyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-4-yl}methanol
To a suspension of lithium aluminum hydride (0.14 wt) in THF (3.4 vols), add a solution of the diethyl 2-[4-(trifluoromethyl)phenyl]-1,3-thiazole-4,5-dicarboxylate (1.0 wt, 1.0 eq), dissolved in THF (2 vols) at a rate such that the temperature of the reaction mixture is maintained at below −10° C. The addition time is 1.5–3.0 hr. After the addition is complete, stir the reaction mixture at ambient temperature for 18 h. Quench the reaction by adding aqueous 16% sulfuric acid (2.4 vols). Charge ethyl acetate (5 vols) with stirring to the reaction mixture followed with water (5 vols). Filter the resulting two phase mixture through celite (0.4 wt). Separate the layers and wash the organic layer with water (4×4 vols) and with brine (2×4 vol). Reduce the total volume of the reaction mixture via vacuum distillation to leave the solid suspended in ethyl acetate (1–1.5 vols). Dilute the slurry with dichloromethane (5 vols) and stir the suspension for at least 6 h. Filter the tan-colored solid. Wash the wet cake with dichloromethane (2 vols) and dry the wet cake at 45° C. under mild vacuum to afford the title compound as an off-white solid.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | diethyl 2-[4-(trifluoromethyl)phenyl]-1,3-thiazole-4,5-dicarboxylate | 1.0 eq | FC(C1=CC=C(C=C1)C=1SC(=C(N1)C(=O)OCC)C(=O)OCC)(F)F | C16H14F3NO4S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | {5-Hydroxymethyl-2-[4-(trifluoromethyl)phenyl]-1,3-thiazol-4-yl}methanol | OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CO | C12H10F3NO2S
